US06683029B1
5,6-Difluoro-(3-fluorophenoxy)-pyrimidine
11.38 g (0.085 mol) of trifluoropyrimidine are dissolved in 240 ml of acetonitrile and admixed with 15.26 g (0.11 mol) of potassium carbonate, and the mixture is cooled to 10° C. Under argon, a solution of 9.52 g (0.085 mol) of 3-fluorophenol in 80 ml of acetonitrile is added dropwise. The mixture is then stirred under argon, without further cooling, for another 18 hours. The mixture is poured into 1 litre of water and extracted three times with in each case 150 ml of ethyl acetate, and the organic phase is dried over sodium sulphate and concentrated under reduced pressure. The residue is subjected to kugelrohr distillation. This gives 15.2 g (79.1% of theory) of 5,6-difluoro-(3-fluorophenoxy)-pyrimidine of boiling point 95° C. at 0.5 mbar.

reactant | trifluoropyrimidine | 0.085 mol, 11.38 g | FC=1C(=NC(=NC1)F)F | C4HF3N2
reactant | potassium carbonate | 0.11 mol, 15.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluorophenol | 0.085 mol, 9.52 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | water | 1 litre | O | H2O
solvent | acetonitrile | 240 ml | C(C)#N | C2H3N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 5,6-Difluoro-(3-fluorophenoxy)-pyrimidine | FC=1C=NC(=NC1F)OC1=CC(=CC=C1)F | C10H5F3N2O
